US07491731B2
5-{3-methoxy-4-[(4-methoxybenzyl)oxy]benzyl}pyrimidine-2,4-diamine
A suspension of 3-anilino-2-{3-methoxy-4-[(4-methoxybenzyl) oxy]benzyl}prop-2-enenitrile (300 mg, 0.75 mmol) and guanidine hydrochloride (108 mg, 1.13 mmol) in ethanol (5 mL) was stirred at room temperature while sodium methoxide was added. The mixture was stirred at reflux overnight. The solution was cooled 5 C and 2N sodium hydroxide (2 mL) was added. After 15 minutes, a white precipitate was filtered off and washed with water then hexane to give product as a white solid (199 mg, 0.54 mmol). 1H NMR (300 MHz, d6-DMSO): δ 7.45 (s, 1H), 7.32 (d, J=8.6 Hz, 2H), 6.93-6.85 (m, 4H), 6.66 (dd, J=8.3 and 1.5 Hz, 1H), 6.02 (s, 2H), 5.65 (s, 2H), 4.91 (s, 2H), 3.73 (s, 3H), 3.70 (s, 3H), 3.50 (s, 2H). MS (ES+, m/z)=367 (M+H).

reactant | 3-anilino-2-{3-methoxy-4-[(4-methoxybenzyl) oxy]benzyl}prop-2-enenitrile | 0.75 mmol, 300 mg | N(C1=CC=CC=C1)C=C(C#N)CC1=CC(=C(C=C1)OCC1=CC=C(C=C1)OC)OC | C25H24N2O3
reactant | guanidine hydrochloride | 1.13 mmol, 108 mg | Cl.NC(=N)N
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
product | 5-{3-methoxy-4-[(4-methoxybenzyl)oxy]benzyl}pyrimidine-2,4-diamine | 0.54 mmol, 199 mg | COC=1C=C(CC=2C(=NC(=NC2)N)N)C=CC1OCC1=CC=C(C=C1)OC | C20H22N4O3
